US04538003
This Example illustrates the use of EtMgBr/[NitriphosCl]PF6 as an activator/catalyst to improve yield. To 2.00 g (13.61 mmoles) of o-dichlorobenzene, 0.050 g (0.065 mmoles) of [NitriphosCl]PF6 in 5 mL of ether at 0° C. was added 0.5 mL (1.5 mmoles) of 2.9M EtMgBr in ether. After stirring for 0.5 hrs, 30 mL of ether and 7.0 mL (14 mmoles) of 2M benzylMgCl in THF were added. The mixture was refluxed for 3 days and worked up as usual. After removing the solvent, the residue was distilled at 0.1 mm to initially remove 0.550 g (3.7 mmoles, 27%) of o-dichlorobenzene and then 1.482 g (bp: 68° to 83° C.) of a clear liquid was collected. 1H NMR spectrum in CDCl3 indicated a 10:1 ratio of 1-chloro-2-benzylbenzene to bibenzyl (representing 6.7 mmoles (67 % based on reacted o-dichlorobenzene) of 1-chloro-2-benzylbenzene and 0.67 mmoles of bibenzyl). The material that remained in the pot was chromatographed on silica gel eluted with 10% EtOAc/hexane to give 0.602 g (2.57 mmoles, 19%) of 1,2-dibenzylbenzene (mp: 61° to 67° C.).

reactant | o-dichlorobenzene | 13.61 mmoles, 2.00 g | ClC1=C(C=CC=C1)Cl | C6H4Cl2
reactant | EtMgBr | 1.5 mmoles, 2.9M, 0.5 mL | CC[Mg+].[Br-]
reactant | o-dichlorobenzene | 3.7 mmoles, 0.550 g | ClC1=C(C=CC=C1)Cl | C6H4Cl2
reactant | bibenzyl | 6.7 mmoles | C1(=CC=CC=C1)CCC1=CC=CC=C1 | C14H14
reactant | 1-chloro-2-benzylbenzene | ClC1=C(C=CC=C1)CC1=CC=CC=C1 | C13H11Cl
solvent | ether | 5 mL | CCOCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
solvent | ether | 30 mL | CCOCC | C4H10O
product | 1,2-dibenzylbenzene | 2.57 mmoles, 0.602 g, 19% | C(C1=CC=CC=C1)C1=C(C=CC=C1)CC1=CC=CC=C1 | C20H18
